US04341901
4-Methylthio-2-trifluoromethylaniline
A solution of 4-thiocyano-2-trifluoromethylaniline (1.09 g., 0.005 mole) and sodium cyanide (0.125 g., 0.0025 mole) in methanol (50 ml) is refluxed for about 16 hours. Methanol is removed from the cool reaction mixture by evaporation under reduced pressure, the residue is taken up in methylene chloride, washed with water and dried. Removal of the drying agent and solvent gives the product as a yellow oil (1 g., 91 percent yield).

reactant | 4-thiocyano-2-trifluoromethylaniline | 0.005 mole, 1.09 g | S(C#N)C1=CC(=C(N)C=C1)C(F)(F)F | C8H5F3N2S
reactant | sodium cyanide | 0.0025 mole, 0.125 g | [C-]#N.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-Methylthio-2-trifluoromethylaniline | 1 g, 91 percent yield | CSC1=CC(=C(N)C=C1)C(F)(F)F | C8H8F3NS
